US08470803B2
2-bromo-5-[N-(tert-butoxycarbonyl)-4-cyanophenylamino]benzyl acetate (3.02 g, 6.78 mmol) was treated with 4 mol/L hydrogen chloride in dioxane (20 mL) at room temperature for two hours. This was neutralized with 1 mol/L sodium hydroxide to PH=6 to 7 in ice-water bath and then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 2-bromo-5-(4-cyanophenylamino)benzyl acetate, which was used for the next step without purification.

reactant | 2-bromo-5-[N-(tert-butoxycarbonyl)-4-cyanophenylamino]benzyl acetate | 6.78 mmol, 3.02 g | C(C)(=O)OCC1=C(C=CC(=C1)N(C(=O)OC(C)(C)C)C1=CC=C(C=C1)C#N)Br | C21H21BrN2O4
reactant | hydrogen chloride | 4 mol/L | Cl | ClH
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-5-(4-cyanophenylamino)benzyl acetate | C(C)(=O)OCC1=C(C=CC(=C1)NC1=CC=C(C=C1)C#N)Br | C16H13BrN2O2
